US07700634B2
To a suspension of 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid (1.0 g, 3.48 mmol) in dichloromethane (20 ml) was added oxalyl chloride (0.6 ml, 6.96 mmol) and the reaction stirred for 3.5 h. The solvent was evaporated under reduced pressure and the resulting residue redissolved in dichloromethane (20 ml). To the solution was added chloroacetic acid hydrazide (1.3 g, 8.97 mmol) and triethylamine (2.9 ml, 20.9 mmol) and the reaction mixture stirred for 4 h and then left to stand overnight. The solvent was evaporated under reduced pressure and the resulting residue purified by flash column chromatography eluting with 50-100% (v/v) ethyl acetate in heptane to give 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid N′-(2-chloroacetyl)hydrazide (397 mg, 1.05 mmol).

reactant | 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid | 3.48 mmol, 1.0 g | C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C(=O)O | C17H21NO3
reactant | oxalyl chloride | 6.96 mmol, 0.6 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | chloroacetic acid hydrazide | 8.97 mmol, 1.3 g | ClCC(=O)NN | C2H5ClN2O
reactant | triethylamine | 20.9 mmol, 2.9 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-cyclohexylmethyl-7-methoxy-1H-indole-3-carboxylic acid N′-(2-chloroacetyl)hydrazide | 1.05 mmol, 397 mg | ClCC(=O)NNC(=O)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C19H24ClN3O3
